US04460580
A mixture of 23.0 g of 2,6-dihydroxybenzamide, 20.7 g of potassium carbonate and 28.2 g of 1,2-dibromoethane in 300 ml of acetonitrile is stirred under reflux for 2-3 hours. The reaction mixture is filtered whilst still warm, the filtrate is evaporated and the residue is recrystallised from a little methanol. 6-(2-Bromoethoxy)salicylamide with a melting point of 120°-121° is obtained.

reactant | 2,6-dihydroxybenzamide | 23.0 g | OC1=C(C(=O)N)C(=CC=C1)O | C7H7NO3
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 28.2 g | BrCCBr | C2H4Br2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 6-(2-Bromoethoxy)salicylamide | BrCCOC=1C=CC=C(C1C(=O)N)O | C9H10BrNO3
